US09102637B2
(c) 5-(4-fluorobenzamido)-2-(quinolin-4-ylamino)thiazole-4-carboxamide
To a mixture of 4-fluorobenzoylchloride (0.16 g, 1 mmol) and a catalytic amount of DMAP in pyridine (5 mL) was added dropwise a solution of 5-amino-2-(quinolin-4-ylamino)thiazole-4-carboxamide (0.25 g, 0.87 mmol) in pyridine (5 mL), and the mixture was stirred for 16 hrs at rt. The reaction mixture was quenched with ice-water. The resulting solids were collected by filteration and washed successively with water, ether, and MeOH to give 0.12 g (33% yield) of the titled compound. LCMS m/z [M+H]+408.2 .

reactant | 4-fluorobenzoylchloride | 1 mmol, 0.16 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 5-amino-2-(quinolin-4-ylamino)thiazole-4-carboxamide | 0.87 mmol, 0.25 g | NC1=C(N=C(S1)NC1=CC=NC2=CC=CC=C12)C(=O)N | C13H11N5OS
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(4-fluorobenzamido)-2-(quinolin-4-ylamino)thiazole-4-carboxamide | 0.12 g, 33% yield | FC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC=NC3=CC=CC=C23)C(=O)N)C=C1 | C20H14FN5O2S
